US07638526B2
Under a nitrogen atmosphere, react 4-chlorobenzaldehyde (14.0 g) and cyclopropylamine (5.7 g) in anhydrous toluene (50 mL) in the presence of molecular sieves for 48 h. Filter the reaction mixture and concentrate the filtrate in vacuo at 60 C to give 4-chlorobenzylidene cyclopropylamine (By as a crystalline solid (15.98 g).

reactant | 4-chlorobenzaldehyde | 14.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | cyclopropylamine | 5.7 g | C1(CC1)N | C3H7N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chlorobenzylidene cyclopropylamine | ClC1=CC=C(C=NC2CC2)C=C1 | C10H10ClN
